* CMOS inverter-based single-ended amplifiers open-loop testbench

* Include GF180MCU device models
.include "../../../gf180mcuA/libs.tech/ngspice/design.ngspice"
.lib "../../../gf180mcuA/libs.tech/ngspice/sm141064.ngspice" typical
.lib "../../../gf180mcuA/libs.tech/ngspice/sm141064.ngspice" mimcap_typical

.include "../../inv/ngspice/inv.spice"
.include "../magic/nautavieru.spice"

.param pVDD = 5.0
.param pIB  = 45.0u

VDD vdd 0 dc {pVDD}
VSS vss 0 0
ECM cm vss vreg vss 0.5

vin in cm dc 0 ac 1
eip ip cm in cm  1.0
eim im cm in cm  1.0

ib vdd ib {pIB}
xb ib      vdd gp bp vreg vss inv_bias
xq q   q   vdd gp bp vreg vss inv0

x0 ip im op om vdd gp bp vreg vss nautavieru

.param dx = 1.5
.dc vin {-dx} {dx} {dx/1001}
.option gmin = 1e-15
.control
	run
	
	let vi = in
	let vo = (op+om)/2
	let av = abs(deriv(vo))
	plot vo vs vi vi vs vi q vs vi vreg vs vi
	plot op vs vi om vs vi vi vs vi q vs vi vreg vs vi
	plot av vs vi ylog ylimit 0.01 10
		
.endc

.end
